US07323475B2
a) 4-Hydroxy-1-(4-methoxy-phenoxy)-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and 4-methoxy-phenol in analogy to Example D-20 d); MS-(+)-ion: M+1=368.1.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | 4-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
product | 4-Hydroxy-1-(4-methoxy-phenoxy)-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC1=CC=C(C=C1)OC | C21H21NO5
